US08981111B2
To a solution of N-hydroxy-1-(4-methyl-1,3-oxazol-5-yl)-1-phenylmethanimine (0.15 g, 0.74 mmol) dissolved in acetonitrile (3 mL) were added 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione (259 mg, 0.82 mmol), cesium carbonate (507 mg, 1.56 mmol) and potassium iodide (12.3 mg, 0.074 mmol). After stirring for 8 hours at room temperature water was added and the mixture was extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to afford 2-{6-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione (0.3 g, 88%).

reactant | N-hydroxy-1-(4-methyl-1,3-oxazol-5-yl)-1-phenylmethanimine | 0.74 mmol, 0.15 g | ON=C(C1=CC=CC=C1)C1=C(N=CO1)C | C11H10N2O2
reactant | 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione | 0.82 mmol, 259 mg | BrCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
reactant | cesium carbonate | 1.56 mmol, 507 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 0.074 mmol, 12.3 mg | [I-].[K+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-{6-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 0.3 g, 88% | CC=1N=COC1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C25H18N4O4
